US07531532B2
3-[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]-1-methyl-1-[1-(1-methylazetidin-3-yl)piperidin-4-yl]urea
To a solution of 6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-ylamine (250 mg) in tetrahydrofuran (10 ml) were added triethylamine (0.307 ml) and phenyl chloroformate (0.264 ml) in this order, followed by stirring at room temperature for 30 min. The reaction mixture was concentrated to give a residue. To the residue was added N,N-dimethylformamide (5.0 ml), methyl-[1-(1-methylazetidin-3-yl)piperidin-4-yl]amine (1.07 g), followed by stirring at room temperature for 36 hrs. The reaction mixture was partitioned between ethyl acetate and an 1N aqueous solution of sodium hydroxide. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=20:1). Fractions containing a target compound were concentrated to give a powder, which was suspended hexane (5 ml). It was filtered off, dried under aeration to provide the titled compound (193 mg, 42.0%) as yellow powder.

reactant | 6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-ylamine | 250 mg | FC1=C(OC2=CC(=NC=N2)N)C=CC(=C1)[N+](=O)[O-] | C10H7FN4O3
reactant | triethylamine | 0.307 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.264 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methyl-[1-(1-methylazetidin-3-yl)piperidin-4-yl]amine | 1.07 g | CNC1CCN(CC1)C1CN(C1)C | C10H21N3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 5 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 3-[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]-1-methyl-1-[1-(1-methylazetidin-3-yl)piperidin-4-yl]urea | 193 mg, 42.0% | FC1=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C2CN(C2)C)C)=O)C=CC(=C1)[N+](=O)[O-] | C21H26FN7O4
